US04021451
3,4-Dihydro-N,N-diethyl-1H-[1]-benzothieno[ 3,2-c] pyran1-ethylamine
A mixture of 3,4-dihydro-1H-[ 1]benzothieno[3,2-c]pyran-1-ethyl chloride (12.0 g), described in Example 30, and diethylamine (80 ml) is heated under reflux for 48 hr. The excess amine is evaporated and the residue is dissolved in 2N HCl and washed with ether. The acidic solution is rendered basic and extracted with ether. These extracts are evaporated to yield the title compound, nmr (DMSO-d6) δ 3.97 and 5.00.

reactant | 3,4-dihydro-1H-[ 1]benzothieno[3,2-c]pyran 1-ethyl chloride | 12.0 g | C1OCCC2=C1C1=C(S2)C=CC=C1.C(C)Cl
reactant | diethylamine | 80 ml | C(C)NCC | C4H11N
product | 3,4-Dihydro-N,N-diethyl-1H-[1]-benzothieno[ 3,2-c] pyran1-ethylamine | C(C)N(CCC1OCCC2=C1C1=C(S2)C=CC=C1)CC | C17H23NOS
